US05047420
Step I: Preparation of 2-(3-methoxy-5-(methoxylthio)-4-propoxyphenyl)-5-(3,4,5-trimethoxyphenyl)-cyclopentanone
Following substantially the same procedure of Step I but substituting 2-(3-bromo-5-methoxy-6-propoxyphenyl)-5-(3,4,5-trimethoxyphenyl)-1,6-hexanedioic acid for 2-(3-methoxy-5-(methylthio)-4-propoxyphenyl)-5-(3,4,5-trimethoxyphenyl)-1,6-hexanedioic acid there was prepared a 1:4 cis:trans mixture of 2-(3-bromo-5-methoxy-4-propoxyphenyl-5-(3,4,5-trimethoxyphenyl)cyclopentanone as an oil in a 15% yield,

reactant | 2-(3-methoxy-5-(methylthio)-4-propoxyphenyl)-5-(3,4,5-trimethoxyphenyl)-1,6-hexanedioic acid | COC=1C=C(C=C(C1OCCC)SC)C(C(=O)O)CCC(C(=O)O)C1=CC(=C(C(=C1)OC)OC)OC | C26H34O9S
reactant | 3-bromo-5-methoxy-4-propoxyphenyl-5-(3,4,5-trimethoxyphenyl)cyclopentanone | BrC=1C=C(C=C(C1OCCC)OC)C1C(C(CC1)C1=CC(=C(C(=C1)OC)OC)OC)=O | C24H29BrO6
product | 2-(3-methoxy-5-(methoxylthio)-4-propoxyphenyl)-5-(3,4,5-trimethoxyphenyl)-cyclopentanone | COC=1C=C(C=C(C1OCCC)SOC)C1C(C(CC1)C1=CC(=C(C(=C1)OC)OC)OC)=O | C25H32O7S
